US08865726B2
To a solution of 4-bromobenzonitrile (80.0 g, 440 mmol) in MeOH (800 mL) was added NaOMe (20.1 mL, 87.9 mmol). The mixture was allowed to stir at ambient temperature for 5.5 hours. 2,2-Dimethoxyethanamine (61.6 mL, 571 mmol) was added followed by acetic acid (50.3 mL, 879 mmol). The reaction mixture was heated to 50° C. for 1 hour and then cooled to ambient temperature. MeOH (200 mL) and HCl (200 mL, 1200 mmol) were added, and the reaction mixture was heated to 65° C. for 18 hours. The reaction mixture was then concentrated, and washed with 1:1 H2O:Et2O (2000 mL). The pH of the aqueous layer was adjusted to pH=9 with 6 N NaOH. The resulting solid was filtered and dried to give 2-(4-bromophenyl)-1H-imidazole (20.0 g, 20%). LCMS (APCI+) m/z 223, 224 [M+H]+.

reactant | 4-bromobenzonitrile | 440 mmol, 80.0 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | NaOMe | 87.9 mmol, 20.1 mL | C[O-].[Na+]
reactant | 2,2-Dimethoxyethanamine | 571 mmol, 61.6 mL | COC(CN)OC | C4H11NO2
reactant | acetic acid | 879 mmol, 50.3 mL | C(C)(=O)O | C2H4O2
reactant | HCl | 1200 mmol, 200 mL | Cl | ClH
solvent | MeOH | 800 mL | CO | CH4O
solvent | MeOH | 200 mL | CO | CH4O
product | 2-(4-bromophenyl)-1H-imidazole | 20.0 g, 20% | BrC1=CC=C(C=C1)C=1NC=CN1 | C9H7BrN2
